US07312241B2
4.6.2.34 3-(3,4-Bis-difluoromethoxy-phenyl)-3-(3,5-dimethoxy-phenyl)-acrylonitrile (E and Z isomers)
Lithium bis-(trimethylsilyl)amide (1M, 3.0 mL) was added dropwise to a stirred solution of diethyl cyanomethylphosphate (0.5 g, 3.0 mmol) in THF (10 mL) at 5-8° C. The mixture was stirred at room temperature for 40 min. A solution of (3,4-bis-difluoromethoxy-phenyl)-(3,5-dimethoxy-phenyl)-methanone (0.9 g, 2.5 mmol) in THF (20 mL) was added and the mixture was stirred at room temperature for 17 h. The resulting mixture was poured into ice water (100 mL) and extracted with CH2Cl2 (3×50 mL). The combined organic layers were washed with water (2×40 mL), brine (40 mL) and dried (MgSO4). Solvent was removed and the residue was purified by flash chromatography (Silica gel, Hexane:CH2Cl2 4:6) to afford a mixture of isomers of 3-(3,4-bis-difluoromethxoy-phenyl)-3-(3,5-dimethoxy-phenyl)-acrylonitrile (0.6 g, 59%) as a white solid: mp 60-62° C.; 1H NMR (CDCl3) δ 7.35-7.22 (m, 3H), 6.90-6.20 (m, 5H), 5.76 (5.70) (s, 1H), 3.77 (3.80) (s, 6H); 13C NMR (CDCl3) δ 160.98 (160.90), 160.65 (160.55), 143.60 (141.87), 139.92, 137.78 (137.06), 135.13, 127.99 (126.83), 123.70 (122.75), 121.84 (121.78), 117.25 (117.05), 115.68 (t, J=1047 Hz), 115.58 (t, J=1047 Hz), 106.80 (107.56), 102.51 (102.37), 96.29 (96.24); Anal Calcd for C19H15NO4F4: C, 75.44; H, 3.81; N, 3.53; F, 19.13. Found: C, 57.82; H, 3.61; N, 3.38; F, 19.39.

reactant | Lithium bis-(trimethylsilyl)amide | 1M, 3.0 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | (3,4-bis-difluoromethoxy-phenyl)-(3,5-dimethoxy-phenyl)-methanone | 2.5 mmol, 0.9 g | FC(OC=1C=C(C=CC1OC(F)F)C(=O)C1=CC(=CC(=C1)OC)OC)F | C17H14F4O5
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(3,4-Bis-difluoromethoxy-phenyl)-3-(3,5-dimethoxy-phenyl)-acrylonitrile | FC(OC=1C=C(C=CC1OC(F)F)C(=CC#N)C1=CC(=CC(=C1)OC)OC)F | C19H15F4NO4
